US09029366B2
A 1 M solution of tetrabutylammonium fluoride in THF (20.1 mL, 20.1 mmol) was added to a stirred solution of ethyl 1-{2-[(tert-butoxycarbonyl)amino]ethyl}-3-{[tert-butyl(dimethyl)silyl]oxy}-1H-pyrazole-5-carboxylate (5.54 g, 13.4 mmol) in THF (45 mL). The mixture was stirred at room temperature for 16 hours, diluted with water and extracted with AcOEt. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo to yield ethyl 1-{2-[(tert-butoxycarbonyl)amino]ethyl}-3-hydroxy-1H-pyrazole-5-carboxylate (3.32 g, 83% yield) as a white solid, that was used in the next step without further purification.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl 1-{2-[(tert-butoxycarbonyl)amino]ethyl}-3-{[tert-butyl(dimethyl)silyl]oxy}-1H-pyrazole-5-carboxylate | 13.4 mmol, 5.54 g | C(C)(C)(C)OC(=O)NCCN1N=C(C=C1C(=O)OCC)O[Si](C)(C)C(C)(C)C | C19H35N3O5Si
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 20.1 mmol, 20.1 mL | C1CCOC1 | C4H8O
product | ethyl 1-{2-[(tert-butoxycarbonyl)amino]ethyl}-3-hydroxy-1H-pyrazole-5-carboxylate | 3.32 g, 83% yield | C(C)(C)(C)OC(=O)NCCN1N=C(C=C1C(=O)OCC)O | C13H21N3O5
